US04279887
A total of 40 ml of a 40% by weight aqueous solution of methylamine was reacted with a solution of 16 g of o-iodobenzoyl chloride in 25 ml of tetrahydrofuran for 10 minutes. The excess solvent was evaporated in a hot water bath at 65°. The mixture was allowed to cool and 40 ml of water was added to precipitate the crude product which was recovered and washed with 1 N NaOH, 1 N HCl, and then water until the washings were neutral. The crude product was dried under vacuum and purified by recrystallization from toluene to yield 12.6 g of N-methyl-o-iodobenzamide as white crystals, m.p. 153°-154°, Rf 0.75 on thin layer chromatography using silica gel 60 and methanolchloroform-acetic acid (15:85:1) mixture.

reactant | methylamine | CN | CH5N
reactant | o-iodobenzoyl chloride | 16 g | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-methyl-o-iodobenzamide | 12.6 g | CNC(C1=C(C=CC=C1)I)=O | C8H8INO
